US04983723
To 3 ml of an anhydrous THF solution containing 375 mg of diisopropylamine was added 2.3 ml of a 1.6M n-hexane solution of n-butyl lithium at 0° C. in a nitrogen atmosphere to prepare LDA in the usual manner. The reaction mixture was cooled to -78° C., and 111 mg of hexamethylphosphoric triamide was added thereto. To the cooled mixture was dropwise added 10 ml of an anhydrous THF solution containing 1.0 g of 4-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1-enyl]-but-3-en-2-one. After the dropwise addition, the mixture was stirred under the same condition for 30 minutes. Then, 5 ml of an anhydrous THF solution of 659 mg of methyl iodide was added dropwise thereto. The reaction mixture was warmed to 0° C., followed by stirring overnight. After completion of the reaction, the reaction mixture was poured into a saturated ammonium chloride aqueous solution and extracted with diethyl ether. The organic layer was washed successively with a saturated sodium chloride aqueous solution and water, and dried over anhydrous magnesium sulfate. The solvent, etc. were removed by distillation under reduced pressure. Purification of the residue by silica gel column chromatography yielded 657 mg (63%) of 1-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1-enyl]pent-1-en-3-one.

reactant | diisopropylamine | 375 mg | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 4-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1-enyl]-but-3-en-2-one | 1.0 g | [Si](C)(C)(C(C)(C)C)OC1CC(=C(C(C1)(C)C)C=CC(C)=O)C | C19H34O2Si
reactant | methyl iodide | 659 mg | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexamethylphosphoric triamide | 111 mg | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | n-hexane | 1.6M | CCCCCC | C6H14
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1-enyl]pent-1-en-3-one | 657 mg, 63% | [Si](C)(C)(C(C)(C)C)OC1CC(=C(C(C1)(C)C)C=CC(CC)=O)C | C20H36O2Si
